US05596097
4-(2'-fluoro-5'-chlorophenyl)-4-oxo-2E-butenoic acid
Finely pulverized maleic anhydride (3.0 g) is added portionwise to a mixture of 1-chloro-4-fluorobenzene (24.6 g) and anhydrous aluminium chloride (11.56 g). A gas bubbler is attached to the top of the condenser and the mixture is heated in an oil bath at 80°-85° C. for 2 hours at which time little hydrogen chloride gas evolution is evident. The mixture is cooled and the excess 1-chloro-4-fluorobenzene is recovered by distillation at water aspirator pressure. The resultant mixture is quenched with ice and then steam distilled to remove the last traces of the 1-chloro-4-fluorobenzene. Concentrated hydrochloric acid (10 mL) is added to the cooled mixture and the resultant solid collected by filtration (9.2 g). This material is taken up in boiling benzene (50 mL), treated with decolorizing charcoal and filtered through a celite bed. On standing overnight, the yellow solid is collected by filtration (2.45 g). A second recrystallization from benzene (40 mL) leads to 4-(2'-fluoro-5'-chlorophenyl)-4-oxo-2E-butenoic acid (2.1 g) as pure regioisomer.

reactant | maleic anhydride | 3.0 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | 1-chloro-4-fluorobenzene | 24.6 g | ClC1=CC=C(C=C1)F | C6H4ClF
reactant | aluminium chloride | 11.56 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrogen chloride | Cl | ClH
product | 4-(2'-fluoro-5'-chlorophenyl)-4-oxo-2E-butenoic acid | FC1=C(C=C(C=C1)Cl)C(/C=C/C(=O)O)=O | C10H6ClFO3
